US08003806B2
(e) Methyl (3R)-3-{5-[(anilinocarbonyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate
To a solution of the crude mixture of methyl (3R)-3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate and the corresponding 2-ethoxyethanol ester (186 mg, ca. 629 μmol) in methanol (5.5 mL) was added N,N-diisopropylamine (132 μL, 750 μmol) and phenyl isocyanate (82 μL, 750 μmol). The solution was stirred at room temperature for 12 hours, then evaporated in vacuo, and purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (95:5) to afford the title compound, [LCMS (Method C, Mobile Phase I) RT=2.33 mins, MH+ 415].

reactant | methyl (3R)-3-(5-amino-1H-benzimidazol-1-yl)-3-phenylpropanoate | NC1=CC2=C(N(C=N2)[C@H](CC(=O)OC)C2=CC=CC=C2)C=C1 | C17H17N3O2
reactant | N,N-diisopropylamine | 750 μmol, 132 μL | C(C)(C)NC(C)C | C6H15N
reactant | phenyl isocyanate | 750 μmol, 82 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | methanol | 5.5 mL | CO | CH4O
product | Methyl (3R)-3-{5-[(anilinocarbonyl)amino]-1H-benzimidazol-1-yl}-3-phenylpropanoate | N(C1=CC=CC=C1)C(=O)NC1=CC2=C(N(C=N2)[C@H](CC(=O)OC)C2=CC=CC=C2)C=C1 | C24H22N4O3
